US08080568B1
To a stirred solution of 3-(2,2-diethoxyethylamino)benzonitrile (0.84 g, 3.59 mmol) in anhydrous DMF (5 mL) at 0° C. was added NaH (0.10 g, 4.30 mmol) portionwise. After 20 min, MeI (0.61 g, 4.30 mmol) was added, and the mixture was stirred at room temperature for 6 h. The reaction mixture was cooled to 0° C., and to it, aqueous NH4Cl (10 mL) solution was added dropwise. The aqueous mixture was extracted with CHCl3 (2×30 mL), and the organic phase was dried over anhydrous Na2SO4, filtered, and evaporated to dryness under reduced pressure. The residue was purified by MPLC on silica gel using a mixture of EtOAc and hexane as eluent to give 3-((2,2-diethoxyethyl)(methyl)amino)benzonitrile (0.65 g, 73%) as a viscous liquid. 1H NMR (400 MHz, CDCl3): δ 7.28-7.24 (m, 1H), 6.96-6.93 (m, 3H), 4.60 (t, 1H, J=5.2 Hz), 3.76-3.69 (m, 2H), 3.55-3.47 (m, 2H), 3.46 (d, 2H, J=5.2 Hz), 3.02 (s, 3H), 1.20 (t, 6H, J=7.0 Hz).

reactant | 3-(2,2-diethoxyethylamino)benzonitrile | 3.59 mmol, 0.84 g | C(C)OC(CNC=1C=C(C#N)C=CC1)OCC | C13H18N2O2
reactant | NaH | 4.30 mmol, 0.10 g | [H-].[Na+]
reactant | MeI | 4.30 mmol, 0.61 g | CI | CH3I
reactant | NH4Cl | 10 mL | [NH4+].[Cl-]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 3-((2,2-diethoxyethyl)(methyl)amino)benzonitrile | 0.65 g, 73% | C(C)OC(CN(C=1C=C(C#N)C=CC1)C)OCC | C14H20N2O2
